US08377957B2
Thionyl chloride (1.1 mL, 15 mmol) was added to a solution of 4-amino-1-(4-hydroxybutyl)-1H-imidazo[4,5-c]quinolin-2-ol (3.5 g, 13 mmol) in 1,2-dichloroethane (60 mL), and the reaction was stirred at 50° C. overnight. A solid was present, which was collected by filtration and washed with diethyl ether (500 to 600 mL) to provide 3.24 g of 4-amino-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-2-ol as a light gray solid.

reactant | Thionyl chloride | 15 mmol, 1.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-1-(4-hydroxybutyl)-1H-imidazo[4,5-c]quinolin-2-ol | 13 mmol, 3.5 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCO)O | C14H16N4O2
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
product | 4-amino-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-2-ol | 3.24 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCl)O | C14H15ClN4O
